US05468742
1.86 g of ethyl 8-bromo-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 2.8 g of 1-tributylstannyl-3-methyl-but-3-en-1-ine and 0.29 g of tetrakis(triphenylphosphine)palladium(0) are refluxed for 6 hours in 20 ml of absolute toluene under a nitrogen atmosphere. The reaction mixture is filtered under hot conditions and concentrated, and the residue is stirred with hexane. After filtration with suction and drying, 1.43 g of ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-(3-methyl-but-3-en-1-inyl)-4-oxo-3-quinolinecarboxylate are obtained (80% of theory).

reactant | ethyl 8-bromo-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 1.86 g | BrC=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)OCC)=O)F)F | C15H12BrF2NO3
reactant | 1-tributylstannyl-3-methyl-but-3-en-1-ine | 2.8 g | C(CCC)[Sn](C#CC(=C)C)(CCCC)CCCC
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.29 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-(3-methyl-but-3-en-1-inyl)-4-oxo-3-quinolinecarboxylate | 1.43 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C#CC(=C)C)F)F)=O)C(=O)OCC | C20H17F2NO3
